US04139626
A solution of 17.4 g. (0.075 mol.) of 3,4 dinitrobenzoylchloride in 250 ml of methylene chloride is treated at 0°-20° C. with a solution of 13 g. (0.15 mol.) of morpholine in 100 ml. of methylene chloride. The solution is kept at 20°-25° C. for 2 hrs., the solvent is evaporated and the residue triturated with water. Recrystallization from methanol affords 4-morpholinocarbonyl-1,2-dinitrobenzene (m.p. 136°-137° C.). 17.0 G. of 4-morpholinocarbonyl-1,2-dinitrobenzene in 340 ml. of methanol is hydrogenated for 3 hrs. at 45-50 psi in the presence of 1.7 g of 5% palladized charcoal. The resulting solution of 1,2-diamino-4-morpholinocarbonylbenzene is filtered and concentrated to ~170 ml. 14.0 G. of 1,3-bis-methoxycarbonyl-S-methyl isothiourea, 170 ml. of water and 4 ml. of acetic acid are added to the diamine solution and the mixture is refluxed for 3 hrs. The solution is concentrated and cooled. Filtration and recrystallization from methanol-chloroform affords 5(6)-morpholinocarbonyl-2-carbomethoxyaminobenzimidazole (m.p. 224° C. dec.).

reactant | 3,4 dinitrobenzoylchloride | 0.075 mol | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C7H3ClN2O5
reactant | morpholine | 0.15 mol | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-morpholinocarbonyl-1,2-dinitrobenzene | O1CCN(CC1)C(=O)C1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C11H11N3O6
